US07504422B2
Preparation of Compound 1: N-(4-fluoro-benzyl)-N′,N′-bis-[2-(4-fluoro-benzylamino)-ethyl]-ethane-1,2-diamine
Tris(2-aminoethyl)amine (0.01 mol) and 4-fluoro-benzaldehyde (0.03 mol) were dissolved in MeOH (50 mL). After stirring at 25° C. for 15 h, NaBH4 (1.90 g, 0.05 mol) was added to the above solution at 0° C. The reaction mixture was stirred for 2 h at 25° C. It was then diluted with CH2Cl2 (100 mL) and ammonium chloride aqueous solution (10%, 70 mL).

reactant | Tris(2-aminoethyl)amine | 0.01 mol | NCCN(CCN)CCN | C6H18N4
reactant | 4-fluoro-benzaldehyde | 0.03 mol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | NaBH4 | 0.05 mol, 1.90 g | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | 70 mL | [Cl-].[NH4+]
product | N-(4-fluoro-benzyl)-N′,N′-bis-[2-(4-fluoro-benzylamino)-ethyl]-ethane-1,2-diamine | FC1=CC=C(CNCCN(CCNCC2=CC=C(C=C2)F)CCNCC2=CC=C(C=C2)F)C=C1 | C27H33F3N4
